US04472433
A mixture of 2-oxo-7-(β-naphthoxy)indoline (5 g) and sodium hydroxide (1.6 g) in dioxane (40 ml) and water (80 ml) was refluxed with stirring for 72 hrs. After cooling, the reaction mixture was filtered, and the filtrate was evaporated in vacuo. The residue was dissolved in hot ethanol and filtered. The filtrate was evaporated in vacuo, and ethyl acetate was added to the residue. The resultant ethyl acetate solution was heated. The precipitating crystals were collected by filtration and recrystallized from ethanol to give 2-[2-amino-3-(β-naphthoxy)phenyl]acetic acid (2.9 g). This substance was dissolved in an aqueous sodium bicarbonate, and the solution was filtered and lyophilized to give sodium 2-[2-amino-3-(β-naphtoxy)phenyl]acetate (2.8 g).

reactant | 2-oxo-7-(β-naphthoxy)indoline | 5 g | O=C1NC2=C(C=CC=C2C1)OC1=CC2=CC=CC=C2C=C1 | C18H13NO2
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 80 ml | O | H2O
product | 2-[2-amino-3-(β-naphthoxy)phenyl]acetic acid | 2.9 g | NC1=C(C=CC=C1OC1=CC2=CC=CC=C2C=C1)CC(=O)O | C18H15NO3
